US04855484
To carry out the process according to a preferred embodiment the catalysts e.g. 0.01 to 3, preferably 0.1 to 1.5% by weight of boric acid and 0.01 to 3, preferably 0.1 to 1.5% by weight of concentrated sulphuric acid are added to the starting components 4-hydroxybenzoic acid and hydroquinone in an inert solvent, preferably an aromatic hydrocarbon, for example toluene or xylene, and the mixture is esterified under reflux and with removal of the water of condensation, for example through a water separator). Preferably used is a boric acid/sulphuric acid mixture containing 25 to 70 parts by weight of boric acid and 75 to 30 parts by weight of sulphuric acid, in particular about 40 to 60 parts by weight of boric acid and 60 to 40 parts by weight of concentrated sulphuric acid. The esterification reaction in the heterogeneous mixture (when using xylene as solvent) is completely after 3.5 to 4 hours. In the case of lower-boiling solvents such as toluene, the esterification time is extended until virtually complete water separation has occurred. The batch is allowed to cool, and the well-crystallized crude product is rapidly filtered off under suction, and washed with an inert solvent, preferably xylene or toluene, then with dilute sodium hydrogen carbonate solution and subsequently with water. After drying, 4-hydroxyphenyl 4-hydroxy-benzoate is obtained in a yield of 98.5% of theory; melting point 242°-245° C. (when using xylene as solvent). In another preferred embodiment the combination sulforic acid/boric acid is replaced by p-toluene sulfonic acid.

reactant | boric acid | B(O)(O)O | BH3O3
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
reactant | 4-hydroxybenzoic acid | OC1=CC=C(C(=O)O)C=C1 | C7H6O3
reactant | hydroquinone | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | boric acid sulphuric acid | B(O)(O)O.S(O)(O)(=O)=O
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
solvent | water | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4-hydroxyphenyl 4-hydroxy-benzoate | yield of 98.5% | OC1=CC=C(C(=O)OC2=CC=C(C=C2)O)C=C1 | C13H10O4
